US04954518
3.1 g of 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride was dissolved in 80 ml of anhydrous tetrahydrofuran. This solution was dropwise added to 10 ml of an aqueous solution containing 1.26 g of sodium azide in 10 minutes at 5°-10° C. The mixture was stirred for 1.5 hours at 10°-20° C. The resulting crystal was collected by filtration to obtain 1.45 g (yield: 46%) of 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid azide having a melting point of 146°-149° C. (decomposed).

reactant | 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid chloride | 3.1 g | CS(=O)(=O)NC1=CC2=C(C(C=C(O2)C(=O)Cl)=O)C=C1OC1=CC=CC=C1 | C17H12ClNO6S
reactant | sodium azide | 1.26 g | [N-]=[N+]=[N-].[Na+]
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
product | 7-methylsulfonylamino-6-phenoxy-4H-1-benzopyran-4-one-2-carboxylic acid azide | 1.45 g, yield: 46% | CS(=O)(=O)NC1=CC2=C(C(C=C(O2)C(=O)N=[N+]=[N-])=O)C=C1OC1=CC=CC=C1 | C17H12N4O6S
